US07094769B2
(3aS,4S,6R,6aR)-6-[6-[(2,2-Diphenylethyl)amino]-2-(ethoxycarbonyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxylic acid
To a solution of ethyl 9-[(3aR,4R,6R,6aR)-6-(hydroxymethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate (Preparation 66) (15.4 g, 0.0276 moles) in acetonitrile under an atmosphere of nitrogen was added 2,2,6,6-tetramethylpiperidinyl-1-oxy, free radical (0.30 g, 0.0019 moles) and aqueous sodium dihydrogen phosphate (120 ml of a 0.67M solution). The resultant mixture was heated to 45° C. with stirring. A solution of sodium chlorite (6.5 g, 0.072 moles) in water (75 ml) and a solution of sodium hypochlorite (0.32 ml of commercial solution with 12% w/v available chlorine, 0.000551 moles) in water (38 ml) were added separately and simultaneously to the stirred mixture over a period of 1 hour. The resultant mixture was then stirred at 45–50° C. for 10 hours, and for 18 hours at ambient temperature. The reaction mixture was then added to a solution of sodium sulphite (18 g, 0.143 moles) in water (300 ml) with stirring. After stirring for 5 minutes, the pH was adjusted to 3.7 by the addition of 2M aqueous hydrochloric acid and the mixture was extracted with ethyl acetate (200 ml then 100 ml). The organic phases were combined, dried over anhydrous magnesium sulphate and were then concentrated in vacuo to give the title compound (15.1 g) as a colourless foam that was used as such for the next step. If necessary, this crude product can be purified by standard means, for example by flash chromatography on silica gel.

reactant | ethyl 9-[(3aR,4R,6R,6aR)-6-(hydroxymethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 0.0276 moles, 15.4 g | OC[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C1=NC(=NC(=C1N=C2)NCC(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC | C30H33N5O6
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 0.072 moles, 6.5 g | Cl(=O)[O-].[Na+]
reactant | sodium sulphite | 0.143 moles, 18 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 75 ml | O | H2O
solvent | water | 38 ml | O | H2O
solvent | water | 300 ml | O | H2O
catalyst | sodium hypochlorite | 0.000551 moles, 0.32 ml | Cl[O-].[Na+]
product | (3aS,4S,6R,6aR)-6-[6-[(2,2-Diphenylethyl)amino]-2-(ethoxycarbonyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxylic acid | 15.1 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)OCC)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)O)C2=CC=CC=C2 | C30H31N5O7
